US06239151B1
A solution of 0.267 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-[(2-tert.butyloxycarbonyl-1-pyrazolidinyl)carbonyl]valerohydrazide was treated with 2 ml of 4M hydrogen chloride in dioxan and stirred for 2 hours at room temperature. The mixture was diluted with diethyl ether and the resulting solid was filtered off, washed with diethyl ether and dried to give 0.142 g of (E)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-[(1-pyrazolidinyl)carbonyl]valerohydrazide hydrochloride in the form of a pale yellow solid.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-[(2-tert.butyloxycarbonyl-1-pyrazolidinyl)carbonyl]valerohydrazide | 0.267 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(C(=O)N1N(CCC1)C(=O)OC(C)(C)C)CC(C)C)CC(C)C | C35H55N5O7
reactant | hydrogen chloride | 4M, 2 ml | Cl | ClH
solvent | dioxan | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (E)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-[(1-pyrazolidinyl)carbonyl]valerohydrazide hydrochloride | 0.142 g | Cl.ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(C(=O)N1NCCC1)CC(C)C)CC(C)C | InChI=1S/C25H39N5O4.ClH/c1-18(2)16-22(21(24(32)28-34)13-8-12-20-10-6-5-7-11-20)23(31)27-30(17-19(3)4)25(33)29-15-9-14-26-29;/h5-8,10-12,18-19,21-22,26,34H,9,13-17H2,1-4H3,(H,27,31)(H,28,32);1H/b12-8+;/t21-,22+;/m0./s1
